US06890940B2
N,N-Bis[N-[2-(3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]-5-pyridyl]-N-methyl-3-aminopropyl]methylamine trihydrochloride
To a solution of N,N-bis[N-[2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]-5-pyridyl]-N-methyl-3-aminopropyl]methylamine (3.62 g, 4.55 mmol) in ethanol (50 mL) was added concentrated hydrochloric acid (1.4 mL, 17 mmol), and the reaction mixture was concentrated under reduced pressure. Ethanol (50 mL) was added to the residue, and the mixture was concentrated under reduced pressure. Ethyl acetate (20 mL) was added to the residue, followed by concentration of the resultant mixture under reduced pressure. The residue was suspended in ethyl acetate and collected by filtration to yield the title compound as a yellow crystalline powder [melting point: 140.0° C. (decomposed)](3.55 g, yield: 86%).

reactant | N,N-bis[N-[2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]-5-pyridyl]-N-methyl-3-aminopropyl]methylamine | 4.55 mmol, 3.62 g | COC=1C=C(C=C(C1OCC(F)(F)F)OC)C1=NC=C(C=C1)N(CCCN(CCCN(C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OCC(F)(F)F)OC)C)C)C | C39H47F6N5O6
reactant | hydrochloric acid | 17 mmol, 1.4 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N,N-Bis[N-[2-(3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]-5-pyridyl]-N-methyl-3-aminopropyl]methylamine trihydrochloride | 3.55 g, yield: 86% | Cl.Cl.Cl.COC=1C=C(C=C(C1OCC(F)(F)F)OC)C1=NC=C(C=C1)N(CCCN(CCCN(C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OCC(F)(F)F)OC)C)C)C | InChI=1S/C39H47F6N5O6.3ClH/c1-48(14-8-16-49(2)28-10-12-30(46-22-28)26-18-32(51-4)36(33(19-26)52-5)55-24-38(40,41)42)15-9-17-50(3)29-11-13-31(47-23-29)27-20-34(53-6)37(35(21-27)54-7)56-25-39(43,44)45;;;/h10-13,18-23H,8-9,14-17,24-25H2,1-7H3;3*1H
